US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (200 mg, 1.4 mmol) was dissolved in absolute ethanol (15 mL), then triethylamine (230 μL, 1.7 mmol) and 1-(bromomethyl)-2-chloro-3-nitrobenzene (350 mg, 1.4 mmol) were added. The mixture was stirred overnight at room temperature. The solid was filtered, washed with methanol, and then dried in vacuo to afford 2-{[(2-chloro-3-nitrophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol as white solid (277 mg, 64% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.23 (s, 3H), 4.56 (s, 2H), 6.00 (bs, 1H), 7.56 (t, J=7.9 Hz, 1H), 7.95 (d, J=8.2 Hz, 2H); LRMS (ES+) m/z 312 (100%, M+1), 314 (45%, M+3).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 1.4 mmol, 200 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 1.7 mmol, 230 μL | C(C)N(CC)CC | C6H15N
reactant | 1-(bromomethyl)-2-chloro-3-nitrobenzene | 1.4 mmol, 350 mg | BrCC1=C(C(=CC=C1)[N+](=O)[O-])Cl | C7H5BrClNO2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-{[(2-chloro-3-nitrophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 277 mg, 64% yield | ClC1=C(C=CC=C1[N+](=O)[O-])CSC1=NC(=CC(=N1)O)C | C12H10ClN3O3S
